US05843931
17,17-bis-(ethylenedioxy)-11β-(4-methoxyphenyl)-5-oestrene are dissolved in 500 ml of acetone and, under an inert gas, 12.5 ml of 4N aqueous hydrochloric acid are added. The reaction mixture is stirred for 2 hours at 40° C. and then poured onto cold saturated sodium hydrogen carbonate solution, and the aqueous phase is extracted repeatedly with methylene chloride. The combined organic phases are dried over sodium sulphate and concentrated in vacuo. The residue is chromatographed on silica gel with a mixture of ethyl acetate/hexane. 12.94 g of 11β-(4-methoxyphenyl)-4-oestrene-3,17-dione are obtained in the form of a white foam.

reactant | 17,17-bis-(ethylenedioxy)-11β-(4-methoxyphenyl)-5-oestrene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3[C@H]1[C@H](C4)C4=CC=C(C=C4)OC | C29H38O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 4N, 12.5 ml | Cl | ClH
product | 11β-(4-methoxyphenyl)-4-oestrene-3,17-dione | 12.94 g | COC1=CC=C(C=C1)[C@@H]1[C@@H]2[C@H]3CCC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C25H30O3
